data/rdb19/train.csv
rxn,smiles,ea
3463,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:23])([H:9])[H:10])([H:6])([H:7])[H:8],19.709227645827923
1850,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][C:17]1([C:16](=[C:15]([H:23])[H:24])[H:25])[C:18]([H:26])[C:19]([H:27])=[C:20]([H:28])[C:21]([H:29])=[C:22]1[H:30],41.9590169825824
3738,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])([H:10])[H:11])([H:7])([H:8])[H:9].[N:21]([C:22](=[O:23])[H:34])[H:33],72.52575547242304
3883,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]=[C:4]([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[O:17][C:18]([H:24])([H:25])[H:26],25.85246529587312
4639,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[C:17]([H:21])([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:18][C:19](=[C:20]([H:25])[H:26])[H:24],56.19881941040512
435,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8](=[C:9]([H:16])[H:17])[C:10](=[O:11])[O:12][H:18])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][C:8]([C:7]([H:13])([H:14])[H:15])([C:9]([H:16])[H:17])[C:10](=[O:11])[O:12][H:18])([H:4])([H:5])[H:6],26.53159798361594
4401,[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([C:16]([H:17])[H:18])[C:19](=[O:20])[O:21][H:28])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[C:16]([C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[C:19](=[O:20])[O:21][H:28])([H:17])[H:18].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],62.804789307992905
5190,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:33])([H:34])[H:35]>>[C:1]([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[H:29])[N:30]([C:31](=[O:32])[H:38])[H:37])([H:33])([H:34])[H:35].[C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])([H:15])[H:36],86.21616334456485
4527,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],60.8611322788056
1963,[C:11]([C:12]([O:13][C:14](=[O:15])[C:16]([C:17]([H:27])([H:28])[H:29])([C:18]([H:19])[H:20])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([O:13][C:14](=[O:15])[C:16]([C:17]([H:27])([H:28])[H:29])=[C:18]([H:19])[H:20])([H:24])[H:25])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:26])([H:6])[H:7],31.63554833375383
1418,[C:10]([C:11]([C:12]([H:13])[C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22].[O:1]([C:2]1([C:4](=[C:5]([H:8])[H:9])[H:7])[O:3][C:12]1([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])[H:13])[H:6],80.99289055442205
5035,[C:11]([C:12]([C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:6])[H:7].[H:5][C:13]([C:12]([C:11]([H:21])([H:22])[H:23])([H:24])[H:25])([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30],28.130026497063227
